US07576108B2
a: 2-(4-Bromo-phenyl)-3-cyclohexyl-acrylic acid ethyl ester
Add LHMDS in THF (451 mL, 1.0 M, 451 mmol) to a slurry of cyclohexylmethyl-triphenyl-phosphonium bromide (207.5 g, 472 mmol) in THF (500 mL) maintained at 0 ° C. and stir the mixture for 1 h. Dissolve (4-bromo-phenyl)-oxo-acetic acid ethyl ester (prepared as described by Hu, Shengkui; Neckers, Douglas C. J. Org. Chem. 1996, 61, 6407-6415.) in THF (40 mL) and add the resulting solution to the reaction mixture. Stir the reaction mixture for 60 h at room temperature. Dilute the mixture with water and neutralize with 1 N HCl. Evaporate the THF and add ether (700 mL). Stir at room temperature for 30 minutes and filter through celite®. Separate the layers and extract the aqueous layers with ether. Dry the combined organic layers over magnesium sulfate, filter, and concentrate. If large amounts of triphenylphosphine oxide are present, add ether (1 L), filter through celite® and concentrate the filtrate. Dissolve the brown oil in CH2Cl2 (50 mL) and filter through a pad of silica gel, eluting with a gradient of 0-5% EtOAc in hexanes to obtain the title compound (109.7 g) as an E/Z mixture (E/Z ratio: 2/1). MS (m/e): 337 (+H).

reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | cyclohexylmethyl-triphenyl-phosphonium bromide | 472 mmol, 207.5 g | [Br-].C1(CCCCC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | (4-bromo-phenyl)-oxo-acetic acid ethyl ester | C(C)OC(C(=O)C1=CC=C(C=C1)Br)=O | C10H9BrO3
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 451 mmol, 1.0 M, 451 mL | C1CCOC1 | C4H8O
product | 2-(4-Bromo-phenyl)-3-cyclohexyl-acrylic acid ethyl ester | 109.7 g | C(C)OC(C(=CC1CCCCC1)C1=CC=C(C=C1)Br)=O | C17H21BrO2
